US07666888B2
5-(4-Methylphenyl)-4-({3-[4-(trifluoromethyl)phenyl]pyrrolidin-1-yl}carbonyl)isoxazole
The title compound was prepared from 5-(4-methylphenyl)isoxazole-4-carboxylic acid (10.2 mg, 0.050 mmol) and 3-[4-(trifluoromethyl)phenyl]pyrrolidine oxalate (15.1 mg, 0.050 mmol) as described in synthetic method B and thereafter purified by preparative HPLC method B to give a solid (5.3 mg). Calcd for C22H19F3N2O2: 400.1399, found 400.1403.

reactant | 5-(4-methylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 10.2 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C11H9NO3
reactant | 3-[4-(trifluoromethyl)phenyl]pyrrolidine oxalate | 0.050 mmol, 15.1 mg | C(C(=O)O)(=O)O.FC(C1=CC=C(C=C1)C1CNCC1)(F)F
product | 5-(4-Methylphenyl)-4-({3-[4-(trifluoromethyl)phenyl]pyrrolidin-1-yl}carbonyl)isoxazole | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)N1CC(CC1)C1=CC=C(C=C1)C(F)(F)F | C22H19F3N2O2
